*****************************************************************
* NXP PSMN1R0-40YLD
*
* Polarity N-Channel
* Ratings 40V/1.100000E-003OHMS/100A
*
* Date Created Fri May 30 04:09:10 2014
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R0-40YLD DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000458234428581995 TC=0.00437280264624884,3.72057744296749E-05
RBD 9 4 0.000266673903774742 TC=0.00437280264624884,3.72057744296749E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6.87030303307701e-09
RG 1 2 1.293272

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	7293.63
+ -10	7287.34
+ -8	7277.83
+ -6	7261.25
+ -5	7245.06
+ -4	7212.31
+ -3	7074.37
+ -2	6202.64
+ -1	3619.6
+ -0.5	2429.97
+ -0.2	2014.85
+ -0.1	2006.71
+ 0	1824.27
+ 0.1	1640.8984
+ 0.2	1638.6216
+ 0.5	1428.6348
+ 1	1197.1848
+ 2	913.52532
+ 3	736.963
+ 4	609.42852
+ 5	535.10424
+ 6	497.5526
+ 8	460.25928
+ 10	438.02988
+ 12	421.81104
+ 15	403.44724
+ 16	398.40436
+ 20	381.89544
+ 25	367.63056
+ 30	356.94064
+ 35	347.0238
+ 40	338.578



.MODEL MINT NMOS(Vto=2.4992398000693 Kp=2.278931e+003 Nfs=400000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=3.02367481825786e-12
+ N=1 M=0.54 VJ=0.51 Fc=0.5 Cjo=1.0384314864e-08 Tt=2.6104e-08)

.ENDS

